US06828448B2
A. 1-Dibutylamino-3-chloropropane
Into a 1 l reactor, there are introduced 288.4 g (3.392 mol) of 20% aqueous ammonia, and then there are added, over 10 minutes and at room temperature (22±2° C.), 618 g (1.696 mol) of 1-dibutylamino-3-chloropropane hydrochloride (titer 66.5%). The medium is stirred for 45 minutes at room temperature and it is allowed to separate by settling for 30 minutes. The bottom aqueous phase (pH=11) is removed, and the organic phase is washed with 300 ml of deionized water at room temperature. The medium is stirred for 30 minutes, separated by settling for 30 minutes and the bottom aqueous phase (pH=9) is drawn off.

reactant | ammonia | 3.392 mol, 288.4 g | N | H3N
reactant | 1-dibutylamino-3-chloropropane hydrochloride | 1.696 mol, 618 g | Cl.C(CCC)N(CCCCl)CCCC
product | 1-Dibutylamino-3-chloropropane | C(CCC)N(CCCCl)CCCC | C11H24ClN
